US05747514
L-Phenylalanine-N-phenylamide
Nα -Benzyloxycarbonyl-L-phenylalanine-N-phenylamide (2.50 g, 6.68 mmol) was dissolved in ethanol (20 ml) and cyclohexene (5 ml) and 10% palladium on charcoal (250 mg) was added. The mixture was heated at reflux for 1 hour after which time no starting material was detectable (as indicated by TLC analysis). The catalyst was removed by filtration and the solvent evaporated to leave the title compound contaminated with residual ethanol (1.74 g). 1H-NMR; d (CD3OD), 7.45 (2H, m), 7.18 (7H, m), 7.04 (1H, m), 3.56 (1H, m), 3.04 (1H, dd, J=6.4, 13.3 Hz) and 2.85 (1H, dd, J=7.2, 13.3 Hz).

reactant | Nα -Benzyloxycarbonyl-L-phenylalanine-N-phenylamide | 6.68 mmol, 2.50 g | C1(=CC=CC=C1)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H22N2O3
reactant | cyclohexene | 5 ml | C1=CCCCC1 | C6H10
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 250 mg | [Pd] | Pd
product | L-Phenylalanine-N-phenylamide | C1(=CC=CC=C1)NC([C@@H](N)CC1=CC=CC=C1)=O | C15H16N2O
